US07776869B2
Synthesis of 5-bromo-2,3,4-trimethoxybenzoic acid
To a solution of 2,3,4-trimethoxybenzoic acid (4.7 g, 22 mmol) and NaOAc (5.5 g, 40 mmol) in 35 ml AcOH was added a solution of bromine (1.5 ml, 29 mmol) in 35 ml AcOH. The reaction became red in color, which quickly faded. The mixture was heated to 80° C. for 1 h, at which point it was cooled to ambient temperature. The material was partitioned between dichloromethane and water. The organic layer was removed and the aqueous layer was extracted once with dichloromethane. The combined organic layers were dried with Na2SO4, filtered, and concentrated to give an oil which solidified on standing. The material was dissolved in diethyl ether and hexanes. Concentration to ½ the volume resulted in precipitation of a white solid. Filtration provided the title compound as a white solid. MS m/z: 293 (M+H+); calc'd for C10H11BrO5: 291.1

reactant | 2,3,4-trimethoxybenzoic acid | 22 mmol, 4.7 g | COC1=C(C(=O)O)C=CC(=C1OC)OC | C10H12O5
reactant | NaOAc | 40 mmol, 5.5 g | CC(=O)[O-].[Na+]
reactant | bromine | 29 mmol, 1.5 ml | BrBr | Br2
solvent | AcOH | 35 ml | CC(=O)O | C2H4O2
solvent | AcOH | 35 ml | CC(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-bromo-2,3,4-trimethoxybenzoic acid | BrC=1C(=C(C(=C(C(=O)O)C1)OC)OC)OC | C10H11BrO5
